US05393761
1-[1-(N-Methyl-2-aminoethyl)-4-piperidyl]-3-(4-fluorophenyl)-5-methyl-1H-indole 14a
A solution of the crude 1-(1-(N-methoxycarbonyl-2-aminoethyl)-4-piperidyl)-3-(4-fluorophenyl)-5-methyl-1H-indole (8.8 g) in dry tetrahydrofuran (75 ml) was added to a suspension of lithium aluminum hydride (2 g) in dry tetrahydrofuran (75 ml) during 15 min and the reaction mixture was refluxed for 1.5 h. After cooling on an ice bath water (4 ml), 4N aqueous NaOH (2.5 ml) and water (10 ml) were added, succesively. The precipitate was filtered off, the solution was dried (Na2SO4) and the solvents were evaporated. This afforded the title compound, as an oil Yield: 6.9 g.

reactant | 1-(1-(N-methoxycarbonyl-2-aminoethyl)-4-piperidyl)-3-(4-fluorophenyl)-5-methyl-1H-indole | 8.8 g | COC(=O)NCCN1CCC(CC1)N1C=C(C2=CC(=CC=C12)C)C1=CC=C(C=C1)F | C24H28FN3O2
reactant | lithium aluminum hydride | 2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 4 ml | O | H2O
reactant | NaOH | 4N, 2.5 ml | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 1-[1-(N-Methyl-2-aminoethyl)-4-piperidyl]-3-(4-fluorophenyl)-5-methyl-1H-indole | CNCCN1CCC(CC1)N1C=C(C2=CC(=CC=C12)C)C1=CC=C(C=C1)F | C23H28FN3
